US04954502
(c) 3-(2-Bromoethyl)-1-methylindole
To a solution of 1-methyl-3-(2-hydroxyethyl)indole (4.00 g,0.023 mol) in 50 mL of acetonitrile at -20° C. under Ar was added a solution of CBr4 (10.16 g, 0.031 mol) in 25 mL of acetonitrile, followed by a solution of triphenylphosphine (8.00 g, 0.031 mol) in 125 mL of acetonitrile. The mixture was stirred and allowed to warm to 0° C. over 2 h. The resulting mixture was evaporated and the residue was chromatographed (SiO2 /hexane, then ethyl acetate-hexane=1:4) to give the product (4.00 g, 74%) as a brown oil: IR (neat) 2940, 1617, 1552 cm-1 ; 1Hnmr (200 MHz, CDCl3) δ 7.58 (d, J=7.6 Hz, 1H), 7.33-7.09 (m, 3H), 6.95 (s, 1H), 3.77 (s, 3H), 3.62 (t, J=7.9 Hz, 2 H), 3.32 (t, J=7.7 Hz, 2H).

reactant | 1-methyl-3-(2-hydroxyethyl)indole | 0.023 mol, 4.00 g | CN1C=C(C2=CC=CC=C12)CCO | C11H13NO
reactant | CBr4 | 0.031 mol, 10.16 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.031 mol, 8.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 3-(2-Bromoethyl)-1-methylindole | 4.00 g, 74% | BrCCC1=CN(C2=CC=CC=C12)C | C11H12BrN
